US06627651B1
To methyl 2-hydroxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (400 mg, 1.83 mmol) dissolved in DMF (8 ml) were added potassium carbonate (507 mg, 3.67 mmol) and cyclohexylmethyl bromide (0.511 ml, 3.66 mmol), and the resulting mixture was stirred at room temperature for 23 hours and at 100° C. for 6 hours. The reaction mixture was concentrated under reduced pressure, water was added to the residue and the resulting mixture was extracted with ethyl acetate (×3). The combined organic layers were dried with anhydrous magnesium sulfate and were then concentrated under reduced pressure, and the residue was subjected to column chromatography (silica gel: 15 g, ethyl acetate/hexane=1/19). The objective fractions were concentrated under reduced pressure, hexane was added to the residue and an insoluble material was collected by filtration. The insoluble material was washed with hexane and was then dried under reduced pressure to obtain methyl 2-cyclohexylmethyloxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (452 mg, 1.44 mmol, 78%).

reactant | methyl 2-hydroxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 1.83 mmol, 400 mg | OC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C13H14O3
reactant | potassium carbonate | 3.67 mmol, 507 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexylmethyl bromide | 3.66 mmol, 0.511 ml | C1(CCCCC1)CBr | C7H13Br
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | methyl 2-cyclohexylmethyloxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 1.44 mmol, 452 mg, 78% | C1(CCCCC1)COC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C20H26O3
